2170-08-06 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2170-8-5**] 09:31 PM
 FEVER - 101.2
F - [**2170-8-5**] 09:00 PM
   Received 1 unit PRBCs overnight. Receiving another one this AM.
   Feels like  not getting enough air in
   Denies pain
   Continues to have non productive cough. Unable to say whether blood
   tinged or not.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2170-8-6**] 02:05 AM
   Voriconazole - [**2170-8-6**] 03:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-6**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 96 (95 - 106) bpm
   BP: 126/61(77) {103/54(68) - 126/81(85)} mmHg
   RR: 43 (26 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
           Total In:
                                                                     24 mL
                                                                    700 mL
   PO:
           60 mL
   TF:
   IVF:
                                                                     24 mL
                                                                    265 mL
   Blood products:
   375 mL
   Total out:
                                                                    950 mL
                                                                  1,365 mL
   Urine:
                                                                    950 mL
                                                                  1,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -926 mL
                                                                   -665 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 96%
   ABG: 7.52/41/112/26/10
   PaO2 / FiO2: 112
   Physical Examination
   Gen: Pale, somnolent, NAD.
   HEENT: No scleral icterus. Crusted, dried blood on on lips and nasal
   mucosa. Abrasions on hard palate.
   Lungs: Patient using accessory muscles to breathe. Decreased lung
   sounds at bases. Rhonchi R>L.
   CV: RRR. No murmurs.
   Abd. Soft, NT, ND. No masses. No rebound or guarding.
   Extremities: Warm, well perfused. No edema.
   Labs / Radiology
   84 K/uL
   6.1 g/dL
   102 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.4 mEq/L
   11 mg/dL
   104 mEq/L
   136 mEq/L
   18.3 %
   0.8 K/uL
        [image002.jpg]
                             [**2170-7-29**]  04:08 AM
                             [**2170-7-30**]  03:26 PM
                             [**2170-7-31**]  05:00 AM
                             [**2170-8-1**]  03:33 AM
                             [**2170-8-1**]  12:57 PM
                             [**2170-8-2**]  03:20 PM
                             [**2170-8-5**]  08:29 PM
                             [**2170-8-5**]  09:03 PM
                             [**2170-8-5**]  10:30 PM
                             [**2170-8-6**]  04:34 AM
   WBC
   0.4
   0.5
   0.8
   0.5
   0.7
   0.5
   0.8
   Hct
   24.5
   27.6
   27.5
   22.9
   25.3
   20.8
   17.6
   18.3
   Plt
   47
   50
   50
   50
   58
   57
   84
   Cr
   0.4
   0.5
   0.4
   0.5
   0.6
   0.6
   0.5
   0.5
   TCO2
   35
   Glucose
   110
   109
   84
   116
   121
   136
   123
   102
   Other labs: PT / PTT / INR:16.4/31.1/1.5, ALT / AST:63/70, Alk Phos / T
   Bili:133/1.1, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:1.9 g/dL,
   LDH:257 IU/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 61 y.o. M with cutaneous squamous cell carcinoma
   metastatic to regional lymph nodes and CLL currently receiving XRT
   presents with neutropenic fever, increasing hypoxia, and progressive
   anemia.
   .
   # Hypoxia/Tachypnea: In this immunocompromised patient the differential
   diagnosis is quite broad, including worsening of his known multifocal
   pneumonia as evidenced by his recent CTA last night and his O2
   requirement.  Also consider whether this is related to his IVIG
   infusion.  There was a question in the past that Rituxan may have
   caused hypoxia and tachypnea.  Consider pulmonary hemorrhage as pt now
   with acute hematocrit drop without evidence of GI bleeding and with
   pinkish, blood-tinged sputum first noted on [**2170-8-4**]; although low
   likelihood as not diffuse findings on CTA.  Lastly, on CT, it appears
   that there is a large L sided pleural effusion that may be causing some
   hypoxia.  Pt was noted to be increasingly tachypnic throughout the day
   of transfer.  Currently on 4 L NC with pO2 of 112 and O2 sats in high
   90's. [**Month (only) 8**] be secondary to anemia.
   - follow ABGs; should patient acutely worsen or tires, would consider
   BIPAP. Patient is DNI
does not want to be intubated longterm. If
   intubated for currently respiratory distress, I
d be concerned about
   being able to extubate.
   - continue supplemental oxygen (currently 4L nc), nebs
   - daily CXRs
   - continue broad spectrum antibiotics of vancomycin (day 1 [**7-18**]),
   meropenem (day 1 [**7-22**]), azithromycin (day 1 [**7-24**]), voriconazole (day 1
   [**7-22**]) for now as pt continues to be febrile with known pneumonia
   - appreciate ID recommendations
   - consider repeat bronchoscopy and biopsy as pt continues to be febrile
   and continues to not respond to current abx
   - consider thoracentesis for L sided pleural effusion
   - resend sputum culture
   - talk with heme-onc re: IVIG infusion and possible side effects of
   infusion
   - hold lasix
   .
   # Anemia: Acute drop in Hct today from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Concern for intraabdominal or retroperitoneal bleed.
   - q4 hour Hcts
   - 2 PIV
   - IV PPI [**Hospital1 **]
   - cannot guaiac as pt neutropenic
   - transfuse for Hct goal > 30
   - hemolysis labs: retic count 0.8, haptoglobin not decreased, LDH
   high/normal.  Will talk to heme about how to interpret this in the
   setting of CLL.
   - talk to heme-onc regarding oncologic therapy and anemia
   -obtain CT abdomen and pelvis today to look for intraabdominal bleed or
   retroperitoneal bleed.
   # Altered mental status: Over the past day since tachypnic and
   hypoxic.  [**Month (only) 8**] be secondary to hypercarbic respiratory distress, anemia,
   new infection given neutropenic fever.
   -follow up ABG. Consider BIPAP if unable to ventilate on his own.
   -CT head to look for acute intracranial bleed
   -consider LP to look for infectious source, however given that he is
   already on broad specturm antibiotics, unlikely if this will have any
   value. Hold off on this for now. Will consider it if AMS persists.
   -no sedating medications.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   - continue vancomycin, meropenem, azithromycin, voriconazole
   - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
   - f/u Cx data
   - follow fever curve
   - tylenol prn
   .
   # Transaminitis: Thought to be [**1-20**] antifungal so it was switched to
   voriconazole.
   - trend LFTs -resolving
   .
   # Cutaneous squamous cell carcinoma/CLL: Per Dr. [**Last Name (STitle) 311**] most recent
   note, to consider 2nd dose of rituxan and vincristine.
   - Heme - Onc consult in AM
   - follow daily ANCs
   - continue GCSF per Heme-Onc
   .
   # FEN: no IVFs for now / electrolyte scales / NPO
   # Access: PICC, to place PIV
   # PPx: Thrombocytopenia, will use pneumoboots for now / IV PPI / bowel
   regimen
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   ICU Care
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM

2170-08-07 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2170-8-6**] 10:49 AM
 FEVER - 101.5
F - [**2170-8-6**] 04:00 PM
   Anemia: Patient has received 4 units PRBCs since admission to ICU
   yesterday. AM HCT 31.0. Back to baseline mental status this AM.
   Nutrition recs: If unable to tolerate adequate po intake, consider TFs.
   Currently NPO. Advance diet to neutropenic with ensure tid.
   Wife: okay with brief intubation.
   Desats to 90% without supplemental oxygen.  Strong productive cough.
   Noted to have rust-tinged sputum per nursing.
   ID recs: Consider diagnostic pleural tap for diagnositcs, r/o empyema.
   Attempt to obtain sputum. Ok to d/c [**Year (4 digits) 325**]. Redose Voriconazole.
   CT torso: negative for intraabdominal or retroperitoneal bleed. CT head
   negative for bleed
   ECHO: EF 55%. No abnormalities.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-8-6**] 03:08 PM
   Voriconazole - [**2170-8-6**] 11:00 PM
   Acyclovir - [**2170-8-7**] 12:45 AM
   Meropenem - [**2170-8-7**] 02:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-8-6**] 07:31 PM
   Furosemide (Lasix) - [**2170-8-6**] 07:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-7**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.9
C (98.4
   HR: 91 (81 - 101) bpm
   BP: 137/79(93) {104/56(69) - 138/86(124)} mmHg
   RR: 35 (27 - 42) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  2,872 mL
                                                                    323 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,210 mL
                                                                    323 mL
   Blood products:
                                                                  1,482 mL
   Total out:
                                                                  4,915 mL
                                                                    505 mL
   Urine:
                                                                  4,915 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,043 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 92% 4L nc
   ABG: 7.47/40/117/31/5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   82 K/uL
   11.5 g/dL
   110 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   11 mg/dL
   99 mEq/L
   137 mEq/L
   31.0 %
   1.4 K/uL
        [image002.jpg] granulocyte count 830
   Fibrinogen 430; haptoglobin 344; LDH 295; sputum cx pending
                             [**2170-8-2**]  03:20 PM
                             [**2170-8-5**]  08:29 PM
                             [**2170-8-5**]  09:03 PM
                             [**2170-8-5**]  10:30 PM
                             [**2170-8-6**]  04:34 AM
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
   WBC
   0.5
   0.8
   1.1
   1.4
   Hct
   20.8
   17.6
   18.3
   22
   21.5
   24.4
   29.0
   31.0
   Plt
   57
   84
   77
   82
   Cr
   0.6
   0.5
   0.5
   0.6
   TCO2
   35
   30
   Glucose
   136
   123
   102
   110
   Other labs: PT / PTT / INR:16.4/31.1/1.5, ALT / AST:59/56, Alk Phos / T
   Bili:156/1.3, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:1.9 g/dL, LDH:295 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 61 y.o. M with cutaneous squamous cell carcinoma
   metastatic to regional lymph nodes and CLL currently receiving XRT
   presents with neutropenic fever, increasing hypoxia, tachypnea, and
   progressive anemia.
   .
   # Hypoxia/Tachypnea: In this immunocompromised patient the differential
   diagnosis is quite broad, including worsening of his known multifocal
   pneumonia as evidenced by his recent CTA and his O2 requirement.  Also
   consider whether this is related to his IVIG infusion.  There was a
   question in the past that Rituxan may have caused hypoxia and
   tachypnea.  Consider pulmonary hemorrhage as pt now with acute
   hematocrit drop without evidence of GI bleeding and with pinkish,
   blood-tinged sputum first noted on [**2170-8-4**]; although low likelihood as
   not diffuse findings on CTA.  Lastly, on CT, it appears that there is a
   large L sided pleural effusion that may be causing some hypoxia.  Pt
   was noted to be increasingly tachypnic throughout the day of transfer.
   [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2 carrying
   capacity)
   - follow ABGs; should patient acutely worsen or tires, would consider
   BIPAP. Patient is DNI
does not want to be intubated longterm. Wife is
   okay with intubation short term (approximately 2 days).
    - continue supplemental oxygen nebs
   - daily CXRs
   - continue broad spectrum antibiotics of vancomycin (day 1 [**7-18**]),
   meropenem (day 1 [**7-22**]), azithromycin (day 1 [**7-24**]), voriconazole (day 1
   [**7-22**]), acyclovir for now as pt continues to be febrile with known
   pneumonia. D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 325**], [**First Name3 (LF) 77**] ID.  Redose Voriconazole for weight.
   - appreciate ID recommendations
    - consider thoracentesis for L sided pleural effusion. rule out
   empyema. Will discuss this possibility with his wife.
   - resend sputum culture
   - talk with heme-onc re: IVIG infusion and possible side effects of
   infusion
   - hold lasix
   # Anemia: Acute drop in Hct today yesterday 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso
   yesterday. Most recent HCT this AM 31.0, after 4 units total.
   - q4 hour Hcts
    - PIV
   - IV PPI [**Hospital1 **]
   - cannot guaiac as pt neutropenic
   - transfuse for Hct goal > 30
   - hemolysis labs: retic count 0.8, haptoglobin not decreased, LDH
   high/normal.  Will talk to heme about how to interpret this in the
   setting of CLL.
   - talk to heme-onc regarding oncologic therapy and anemia
   # Altered mental status: Over the past day since tachypnic and
   hypoxic.  [**Month (only) 8**] be secondary to hypercarbic respiratory distress, anemia,
   new infection given neutropenic fever.
    -resolved this AM. Most likely secondary to anemia.
   -follow up ABG. Consider BIPAP and brief intubation if unable to
   ventilate on his own.
   -CT head negative for acute bleed
   -consider LP to look for infectious source, however given that he is
   already on broad specturm antibiotics, unlikely if this will have any
   value. Hold off on this for now. Will consider it if AMS persists.
   -no sedating medications.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   - continue vancomycin, meropenem, azithromycin, voriconazole, acyclovir
   - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
   - f/u Cx data
   - follow fever curve
   - tylenol prn
   # Transaminitis: Thought to be [**1-20**] antifungal so it was switched to
   voriconazole.
   - trend LFTs -resolving
   # Cutaneous squamous cell carcinoma/CLL: Per Dr. [**Last Name (STitle) 311**] most recent
   note, to consider 2nd dose of rituxan and vincristine.
   - Heme - Onc consult in AM
   - follow daily ANCs
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Will
   address NG tube with wife today.
   # Access: PICC, PIV
   # PPx: Thrombocytopenia, will use pneumoboots for now / bowel regimen
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   ICU Care
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM
   Code status: DNR (do not resuscitate)
   ------ Protected Section ------
   Physical exam:
   Gen: Somnolent but arousable to voice. NAD.
   CV: RRR. No murmurs.
   Resp: Decreased lung sounds at bases. Intermittent inspiratory rhonchi.
   Abd. Soft, NT, ND. No masses.
   Extremities: Warm, well perfused. No edema.
   Skin: Pink, diaphoretic. Maculopapular rash over back.
   ------ Protected Section Addendum Entered By:[**Name (NI) 326**] [**Name8 (MD) 327**], MD
   on:[**2170-8-7**] 11:58 ------

2170-08-07 11:05:00 Physician Attending Progress Note
Chief Complaint: Anemia
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2170-8-6**] 10:49 AM
 FEVER - 101.5
F - [**2170-8-6**] 04:00 PM
   Received 4 U PRBC since transer back to MICU.
   Poor tolerance for swallowing yesterday, but improved today.
   Mental status improved (somnulance resolved).  Remains
   weakened/fatigued, and despondant.
   Denies dyspnea, but good cough --> productive of yellow-colored sputum
   (moderate; non-bloody)
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-8-6**] 03:08 PM
   Vancomycin - [**2170-8-7**] 08:00 AM
   Acyclovir - [**2170-8-7**] 08:00 AM
   Meropenem - [**2170-8-7**] 08:00 AM
   Voriconazole - [**2170-8-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-6**] 07:31 PM
   Pantoprazole (Protonix) - [**2170-8-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-7**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 80 (80 - 101) bpm
   BP: 109/61(72) {104/56(69) - 138/86(124)} mmHg
   RR: 34 (27 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  2,872 mL
                                                                  1,137 mL
   PO:
                                                                    180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,210 mL
                                                                  1,017 mL
   Blood products:
                                                                  1,482 mL
   Total out:
                                                                  4,915 mL
                                                                    955 mL
   Urine:
                                                                  4,915 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,043 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.5 g/dL
   82 K/uL
   110 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   11 mg/dL
   99 mEq/L
   137 mEq/L
   31.0 %
   1.4 K/uL
        [image002.jpg]
                             [**2170-8-2**]  03:20 PM
                             [**2170-8-5**]  08:29 PM
                             [**2170-8-5**]  09:03 PM
                             [**2170-8-5**]  10:30 PM
                             [**2170-8-6**]  04:34 AM
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
   WBC
   0.5
   0.8
   1.1
   1.4
   Hct
   20.8
   17.6
   18.3
   22
   21.5
   24.4
   29.0
   31.0
   Plt
   57
   84
   77
   82
   Cr
   0.6
   0.5
   0.5
   0.6
   TCO2
   35
   30
   Glucose
   136
   123
   102
   110
   Other labs: PT / PTT / INR:17.0/31.6/1.5, ALT / AST:59/56, Alk Phos / T
   Bili:156/1.3, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:295 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Imaging: CXR ([**2170-8-7**]) bilateral, R>L effusions, improved.
   Assessment and Plan
   ALTERED MENTAL STATUS -- somewhat improved today, but still somnulant
   compared to most recent transfer from MICU to medical [**Hospital1 **].  Possibly
   related to fever, infection (pneumonia) and/or medications.
   NEUTROPENIA -- recovering PMN.  Monitor ANC, currently >500.
    LIVER FUNCTION ABNORMALITIES -- monitor serial LFT.
   H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) -- demand
   ischemia.
   PNEUMONIA -- density RLL progressing, likely related to recovery of
   PMN.  Continue empirical antimicrobials.
   ANEMIA -- suspect in part bone marrow suppression.  No evidence bleed
   or hemolysis.  Monitor Hct s/p transfusion.
   NUTRITIONAL SUPPORT -- poor PO intake. Would favor TF.
   DEPRESSION -- continue pharmacological treatment.
   FEVERS -- persistent.  Possible related to pneumonia.  Will consider
   Left thoracentesis to evaluate for complicated effusion of empyema.
   ICU Care
   Nutrition: PO.  Consider initiating TF via NGT (small feeding tube)
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Procedure Note
   Thoracentesis
   Indication:  left pleural effusion, persistent fevers
   Following sterile technique, left thoracentesis was performed without
   complications.  Removed >250 cc translucent  yellow fliud.  Tolerated
   well.
   I was physically present for key protions of the procedure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2170-8-7**] 17:47 ------

2170-08-08 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2170-8-7**] 05:00 PM
   260ml drained. Samples sent to lab.
 FEVER - 101.8
F - [**2170-8-7**] 08:00 AM
   Unsuccessful Dobhoff attempts.
   Nutrition: ate some ice cream and soup
   Has been sitting in chair
   Expectorating moderate amounts of yellow, thick sputum
   Sats 90s on 4L nc
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-8-6**] 03:08 PM
   Vancomycin - [**2170-8-7**] 07:28 PM
   Voriconazole - [**2170-8-7**] 08:45 PM
   Acyclovir - [**2170-8-8**] 12:17 AM
   Meropenem - [**2170-8-8**] 02:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-8-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-8**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.4
C (99.3
   HR: 88 (80 - 108) bpm
   BP: 120/73(82) {104/55(67) - 131/84(94)} mmHg
   RR: 28 (23 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  2,170 mL
                                                                    292 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                  1,850 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  1,564 mL
                                                                    460 mL
   Urine:
                                                                  1,564 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    606 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100% 3L
   ABG: ///28/
   Physical Examination
   Gen: Depressed, NAD.
   CV: RRR. No murmurs.
   Resp: Decreased lung sounds at R base. Intermittent Rhonchi
   bilaterally.
   Abd: Soft, NT, ND. No masses.
   Extremities: Warm, well perfused. 1+ edema.
   Neuro: A+Ox3.
   Psych: Flat affect.
   Labs / Radiology
   73 K/uL
   10.1 g/dL
   106 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   12 mg/dL
   99 mEq/L
   134 mEq/L
   27.8 %
   0.9 K/uL
        [image002.jpg]
                             [**2170-8-5**]  10:30 PM
                             [**2170-8-6**]  04:34 AM
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
   WBC
   0.8
   1.1
   1.4
   1.3
   0.9
   Hct
   18.3
   22
   21.5
   24.4
   29.0
   31.0
   30.1
   27.8
   Plt
   84
   77
   82
   78
   73
   Cr
   0.5
   0.6
   0.5
   0.4
   TCO2
   35
   30
   Glucose
   102
   110
   122
   106
   Other labs: PT / PTT / INR:19.3/33.3/1.8, ALT / AST:44/34, Alk Phos / T
   Bili:161/1.1, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.1 g/dL, LDH:207 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea, and progressive anemia.
   # Hypoxia/Tachypnea: In this immunocompromised patient the differential
   diagnosis is quite broad, including worsening of his known multifocal
   pneumonia as evidenced by his recent CTA and his O2 requirement.  Also
   consider whether this is related to his IVIG infusion.  There was a
   question in the past that Rituxan may have caused hypoxia and
   tachypnea.  Consider pulmonary hemorrhage as pt now with acute
   hematocrit drop without evidence of GI bleeding and with pinkish,
   blood-tinged sputum first noted on [**2170-8-4**]; although low likelihood as
   not diffuse findings on CTA.  Lastly, on CT, it appears that there is a
   large L sided pleural effusion that may be causing some hypoxia.  Pt
   was noted to be increasingly tachypnic throughout the day of transfer.
   [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2 carrying
   capacity). s/p thoracentesis on [**8-7**] for L sided pleural effusion.
   - follow ABGs; should patient acutely worsen or tires, would consider
   BIPAP. Patient is DNI
does not want to be intubated longterm. Wife is
   okay with intubation short term (approximately 2 days).
    - continue supplemental oxygen nebs
   - daily CXRs
   - continue broad spectrum antibiotics of vancomycin (day 1 [**7-18**]),
   meropenem (day 1 [**7-22**]), voriconazole (day 1 [**7-22**]), acyclovir for now as
   pt continues to be febrile with known pneumonia. ID has recommended
   discontinuing Vanc, however given that this patient has neutropenic
   fever, will continue.
   - appreciate ID recommendations
   - sputum cultures pending
   - talk with heme-onc re: IVIG infusion and possible side effects of
   infusion
   - hold lasix
   # Anemia: Acute drop in Hct today yesterday 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso
   yesterday. Most recent HCT this AM 27.8, after 5 units total.
   Stabilized.
   -  Daily Hcts
    - PIV
   - cannot guaiac as pt neutropenic
    - transfuse for Hct goal around 27
    - hemolysis labs: no evidence of hemolysis
   - f/u heme-onc recs
   #Psychiatry: Patient is markedly depressed, however has declined
   psychiatry consult.  Currently on celexa 20mg qd.
   -Will curbside psychiatry to find out if they recommend a better
   regimen
   # Altered mental status: Over the past day since tachypnic and
   hypoxic.  [**Month (only) 8**] be secondary to hypercarbic respiratory distress, anemia,
   new infection given neutropenic fever.
    -resolved once HCT brought up to 30. Most likely secondary to anemia.
   -follow up ABG. Consider BIPAP and brief intubation if unable to
   ventilate on his own.
    -CT head negative for acute bleed
   -no sedating medications.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   - continue vancomycin, meropenem, voriconazole, acyclovir
    - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
    - follow fever curve - tylenol prn
   # Transaminitis: Thought to be [**1-20**] antifungal so it was switched to
   voriconazole.
   -          trend LFTs
resolving
   -          Alk phos rising. However no abdominal pain. No medications
   that could account for this.  Will follow this daily.
   # Cutaneous squamous cell carcinoma/CLL: Per Dr. [**Last Name (STitle) 311**] most recent
   note, to consider 2nd dose of rituxan and vincristine.
    - f/u Heme - Onc recs
   - follow daily ANCs
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Will
   attempt to place NG tube today for TFs.
   # Access: PICC, PIV
   # PPx: Thrombocytopenia, will use pneumoboots for now / bowel regimen
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   ICU Care
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM
   Code status: DNR (do not resuscitate)

2170-08-08 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress; anemia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2170-8-7**] 05:00 PM
   260ml drained. Samples sent to lab.
 FEVER - 101.8
F - [**2170-8-7**] 08:00 AM
   Left thoracentesis performed yesterday, removal of 250 cc
   yellow-colored translucent fluid.
   PO intake remains marginal.  Unable to place flexible feeding tube.
   Continues to cough yellow-colored sputum.  No increased dyspnea.
   Pt. states to have limited recall of events leading to return to MICU.
   Up in chair.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-8-6**] 03:08 PM
   Voriconazole - [**2170-8-7**] 08:45 PM
   Meropenem - [**2170-8-8**] 07:19 AM
   Vancomycin - [**2170-8-8**] 08:20 AM
   Acyclovir - [**2170-8-8**] 09:25 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-8**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.8
C (100.1
   HR: 97 (83 - 108) bpm
   BP: 124/71(83) {104/55(67) - 129/77(88)} mmHg
   RR: 31 (23 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  2,170 mL
                                                                    981 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                  1,850 mL
                                                                    981 mL
   Blood products:
   Total out:
                                                                  1,564 mL
                                                                    800 mL
   Urine:
                                                                  1,564 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    606 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: bases, No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   73 K/uL
   106 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   12 mg/dL
   99 mEq/L
   134 mEq/L
   27.8 %
   0.9 K/uL
        [image002.jpg]
                             [**2170-8-5**]  10:30 PM
                             [**2170-8-6**]  04:34 AM
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
   WBC
   0.8
   1.1
   1.4
   1.3
   0.9
   Hct
   18.3
   22
   21.5
   24.4
   29.0
   31.0
   30.1
   27.8
   Plt
   84
   77
   82
   78
   73
   Cr
   0.5
   0.6
   0.5
   0.4
   TCO2
   35
   30
   Glucose
   102
   110
   122
   106
   Other labs: PT / PTT / INR:19.3/33.3/1.8, ALT / AST:44/34, Alk Phos / T
   Bili:161/1.1, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.1 g/dL, LDH:207 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS -- appears withdrawn, despondant and depressed.
   Currently refuses discussion with Pshychiatry.  Altered recall may be
   related to medications.
   FEVERS -- persistent.  Unclear source, although still with evidence for
   RLL pneumonia, now producing sputum with recovery of WBC.
   NEUTROPENIA -- marginal return.  Continue empircal antimicrobials while
   febrile.
   LIVER FUNCTION ABNORMALITIES -- elevation of Alk Phos --> concern for
   obstruction or biliary tree.  Monitor.
   H/O CORONARY ARTERY DISEASE -- stable.
   PNEUMONIA -- RLL, aspiration.  Continue antimicrobials.
   NUTRITIONAL SUPPORT -- attempt to place feeding tube, and initiate TF.
   ANEMIA, CHRONIC -- stable s/p transfusion.  Monitor Hct.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-08-09 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   24 Hour Events:
   Patient had Dobhoff placed yesterday, Tube feeds started.
   Up with PT yesterday
   Febrile overnight.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-8-6**] 03:08 PM
   Meropenem - [**2170-8-8**] 07:32 PM
   Vancomycin - [**2170-8-8**] 08:00 PM
   Voriconazole - [**2170-8-8**] 09:29 PM
   Acyclovir - [**2170-8-9**] 12:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-9**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.9
   HR: 81 (81 - 114) bpm
   BP: 105/53(65) {102/53(65) - 136/79(88)} mmHg
   RR: 29 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  2,694 mL
                                                                    430 mL
   PO:
                                                                    100 mL
             TF:
                                                                    137 mL
                                                                    198 mL
   IVF:
                                                                  2,298 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    540 mL
   Urine:
                                                                  1,885 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    809 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   9.6 g/dL
   124 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.3 mEq/L
   9 mg/dL
   96 mEq/L
   133 mEq/L
   26.1 %
   0.5 K/uL
        [image002.jpg]
                             [**2170-8-6**]  04:34 AM
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
   WBC
   0.8
   1.1
   1.4
   1.3
   0.9
   0.5
   Hct
   18.3
   22
   21.5
   24.4
   29.0
   31.0
   30.1
   27.8
   26.1
   Plt
   84
   77
   82
   78
   73
   93
   Cr
   0.5
   0.6
   0.5
   0.4
   0.4
   TCO2
   30
   Glucose
   102
   110
   122
   106
   124
   Other labs: PT / PTT / INR:19.8/33.7/1.9, ALT / AST:67/80, Alk Phos / T
   Bili:192/1.0, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.0 g/dL, LDH:251 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea, and progressive anemia.
   # Multilobar pneumonia: In this immunocompromised patient the
   differential diagnosis is quite broad, including worsening of his known
   multifocal pneumonia as evidenced by his recent CTA and his O2
   requirement.  Also consider whether this is related to his IVIG
   infusion.  There was a question in the past that Rituxan may have
   caused hypoxia and tachypnea.  Consider pulmonary hemorrhage as pt now
   with acute hematocrit drop without evidence of GI bleeding and with
   pinkish, blood-tinged sputum first noted on [**2170-8-4**]; although low
   likelihood as not diffuse findings on CTA.  Lastly, on CT, it appears
   that there is a large L sided pleural effusion that may be causing some
   hypoxia.  Pt was noted to be increasingly tachypnic and transferred to
   ICU.  [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2
   carrying capacity). s/p thoracentesis on [**8-7**] for L sided pleural
   effusion.
   - follow ABGs; should patient acutely worsen or tires, would consider
   BIPAP. Patient is DNI
does not want to be intubated longterm. Wife is
   okay with intubation short term (approximately 2 days).
    - continue supplemental oxygen nebs
   - daily CXRs
   - continue broad spectrum antibiotics of vancomycin (day 1 [**7-18**]),
   meropenem (day 1 [**7-22**]), voriconazole (day 1 [**7-22**]), acyclovir([**7-25**])  for
   now as pt continues to be febrile with known pneumonia. ID has
   recommended discontinuing Vanc, however given that this patient has
   neutropenic fever, will continue.
   - appreciate ID recommendations
   - sputum cultures pending
   - hold lasix
   # Anemia: Acute drop in Hct on [**8-5**] from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso
   yesterday. Received 5 units total.  Stabilized.
   -this AM's HCT 26.1
   -  Daily Hcts
    - PIV
   - cannot guaiac as pt neutropenic
    - transfuse for Hct goal around 27
    - hemolysis labs: no evidence of hemolysis
   - f/u heme-onc recs
   #Psychiatry: Patient is markedly depressed, however has declined
   psychiatry consult.  Currently on celexa 20mg qd.
   -Will curbside psychiatry to find out if they recommend a better
   regimen
   # Altered mental status: [**8-5**] tachypnic and hypoxic.  [**Month (only) 8**] be secondary
   to hypercarbic respiratory distress, anemia, new infection given
   neutropenic fever.
     -resolved once HCT brought up to 30. Most likely secondary to anemia.
   -follow up ABG. Consider BIPAP and brief intubation if unable to
   ventilate on his own.
    -CT head negative for acute bleed
   -no sedating medications.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   - continue vancomycin, meropenem, voriconazole, acyclovir
    - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
    - follow fever curve - tylenol prn
   # Transaminitis: Thought to be [**1-20**] antifungal so it was switched to
   voriconazole.
   -          trend LFTs
resolving
   -          Alk phos rising. However no abdominal pain. No medications
   that could account for this.  Will follow this daily.
   # Cutaneous squamous cell carcinoma/CLL: Per Dr. [**Last Name (STitle) 311**] most recent
   note, to consider 2nd dose of rituxan and vincristine.
    - f/u Heme - Onc recs
   - follow daily ANCs
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Started
   TFs on [**8-8**].
   # Access: PICC, PIV
   # PPx: Thrombocytopenia, will use pneumoboots for now / bowel regimen
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-8**] 04:18 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-8**] 04:18 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-09 11:55:00 Physician Attending Progress Note
Chief Complaint: Resp. distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Up in chair.
   Ambulated yesterday with PT.
   Offers no new complaints today.
   NGT placed.  Tolerating TF.
   Some loose stool.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-8-6**] 03:08 PM
   Voriconazole - [**2170-8-8**] 09:29 PM
   Vancomycin - [**2170-8-9**] 07:10 AM
   Meropenem - [**2170-8-9**] 09:28 AM
   Acyclovir - [**2170-8-9**] 10:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, Despondant
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-9**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.1
C (97
   HR: 96 (81 - 114) bpm
   BP: 113/70(80) {92/51(54) - 136/77(86)} mmHg
   RR: 33 (16 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 26 Inch
             Total In:
                                                                  2,694 mL
                                                                  1,179 mL
   PO:
                                                                    100 mL
             TF:
                                                                    137 mL
                                                                    347 mL
   IVF:
                                                                  2,298 mL
                                                                    771 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    740 mL
   Urine:
                                                                  1,885 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    809 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: right, No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, Tone:
   Normal
   Labs / Radiology
   9.6 g/dL
   93 K/uL
   124 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.3 mEq/L
   9 mg/dL
   96 mEq/L
   133 mEq/L
   26.1 %
   0.5 K/uL
        [image002.jpg]
                             [**2170-8-6**]  04:34 AM
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
   WBC
   0.8
   1.1
   1.4
   1.3
   0.9
   0.5
   Hct
   18.3
   22
   21.5
   24.4
   29.0
   31.0
   30.1
   27.8
   26.1
   Plt
   84
   77
   82
   78
   73
   93
   Cr
   0.5
   0.6
   0.5
   0.4
   0.4
   TCO2
   30
   Glucose
   102
   110
   122
   106
   124
   Other labs: PT / PTT / INR:19.8/33.7/1.9, ALT / AST:67/80, Alk Phos / T
   Bili:192/1.0, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.0 g/dL, LDH:251 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   Febrile, neutropenia.
   ALTERED MENTAL STATUS -- improved.  Appears depressed
 now receiving
   anti-depressive [**Doctor Last Name **].
   NEUTROPENIA -- continued fevers, but lower temp max.  Continue broad
   spectrum antimicribials.
   LFT ABNORMALITIES -- slight increase.  Possible drug effect.
   CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 stable.
   PNEUMONIA, RLL -- slow clinical response with antimicrobials and return
   of neutrophils.
    LEUKEMIA, CHRONIC (CLL) -- chemotherapy.  Continue CSF.
   ANEMIA, CHRONIC -- transfuse to Hct >21.
   LOOSE STOOL -- submit for C. diff toxin.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-8**] 04:18 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   18 Gauge - [**2170-8-5**] 11:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-08-10 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tmax 100.1
   Dobhoff advanced 5cm
   Denies abdominal pain. Breathing comfortably. No other complaints
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-9**] 07:48 PM
   Voriconazole - [**2170-8-9**] 10:03 PM
   Acyclovir - [**2170-8-10**] 12:04 AM
   Meropenem - [**2170-8-10**] 12:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-9**] 09:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-10**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 102 (87 - 110) bpm
   BP: 122/67(80) {92/51(54) - 127/75(85)} mmHg
   RR: 27 (21 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 26 Inch
             Total In:
                                                                  2,522 mL
                                                                    749 mL
   PO:
                                                                    120 mL
             TF:
                                                                    722 mL
                                                                    236 mL
   IVF:
                                                                  1,520 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                    700 mL
   Urine:
                                                                  3,320 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -798 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93% 3L nc
   ABG: ///33/
   Physical Examination
   Gen: Flat affect, NAD.
   Lungs: Decreased lung sounds at bases. No wheezes or crackles.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No hepatomegaly.
   Extremities: Pale, warm, well perfused. Good distal pulses. No edema.
   Labs / Radiology
   111 K/uL
   9.5 g/dL
   120 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.5 mEq/L
   10 mg/dL
   94 mEq/L
   132 mEq/L
   27.7 %
   0.4 K/uL
        [image002.jpg] granulocyte count 195. Pleural fluid NGTD.
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
   WBC
   1.1
   1.4
   1.3
   0.9
   0.5
   0.4
   Hct
   22
   21.5
   24.4
   29.0
   31.0
   30.1
   27.8
   26.1
   27.7
   Plt
   77
   82
   78
   73
   93
   111
   Cr
   0.6
   0.5
   0.4
   0.4
   0.4
   TCO2
   30
   Glucose
   110
   122
   106
   124
   120
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:89/81, Alk Phos / T
   Bili:227/1.0, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.0 g/dL, LDH:263 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea, and progressive anemia.
   # Multilobar pneumonia: In this immunocompromised patient the
   differential diagnosis is quite broad, including worsening of his known
   multifocal pneumonia as evidenced by his recent CTA and his O2
   requirement.  Also consider whether this is related to his IVIG
   infusion.  There was a question in the past that Rituxan may have
   caused hypoxia and tachypnea.  Consider pulmonary hemorrhage as pt now
   with acute hematocrit drop without evidence of GI bleeding and with
   pinkish, blood-tinged sputum first noted on [**2170-8-4**]; although low
   likelihood as not diffuse findings on CTA.  Lastly, on CT, it appears
   that there is a large L sided pleural effusion that may be causing some
   hypoxia.  Pt was noted to be increasingly tachypnic and transferred to
   ICU.  [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2
   carrying capacity). s/p thoracentesis on [**8-7**] for L sided pleural
   effusion.
   - follow ABGs; should patient acutely worsen or tires, would consider
   BIPAP. Patient is DNI
does not want to be intubated longterm. Wife is
   okay with intubation short term (approximately 2 days).
    - continue supplemental oxygen nebs
   - daily CXRs
   - continue broad spectrum antibiotics of vancomycin (day 1 [**7-18**]),
   meropenem (day 1 [**7-22**]), voriconazole (day 1 [**7-22**]), acyclovir([**7-25**])  for
   now as pt continues to be febrile with known pneumonia. ID has
   recommended discontinuing Vanc. Oncology is comfortably with d/c-ing
   Vanc and Voriconazole.  Would like him to stay on acyclovir.
    - appreciate ID recommendations
   - sputum cultures NGTD
   - hold lasix
   # Anemia: Acute drop in Hct on [**8-5**] from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso
   yesterday. Received 5 units total.  Stabilized.
   -this AM's HCT stable
   -  Daily Hcts
    - PIV
   - cannot guaiac as pt neutropenic
    - transfuse for Hct goal around 27
    - hemolysis labs: no evidence of hemolysis
   - f/u heme-onc recs
   #Psychiatry: Patient is markedly depressed, however has declined
   psychiatry consult.
   - Continue celexa 20mg qd.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   -send C. diff cultures if patient has diarrhea
   - continue vancomycin, meropenem, voriconazole, acyclovir. For now.
   Considering discontinuing Vanc and Vori.
    - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
    - follow fever curve - tylenol prn
   # Transaminitis: Most likely secondary to voriconazole or acyclovir. ID
   has recommended checking EBV and CMV PCRs. Not attributed to
   antibiotics.
   -will touch base with ID regarding discontinuing these meds, as pna is
   most likely bacterial.
   -          trend LFTs
progressively worse
   -          Alk phos rising. However no abdominal pain.
   # Cutaneous squamous cell carcinoma/CLL: Day 6 since
   Vincristine/Rituxan ([**8-4**]); Day 5 since IVIG ([**8-5**])
   -continue Neupogen
    - f/u Heme - Onc recs
plan for IVIG over the weekend.
   - ANCs decreasing
Onc has no new recs regarding this. No plan for
   chemo right now.
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Started
   TFs on [**8-8**].
   -goal fluid balance negative 1L
   # Access: PICC, PIV
   # PPx: Thrombocytopenia, will use pneumoboots for now / bowel regimen
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-10**] 04:41 AM 40 mL/hour
   Code status: DNR (do not resuscitate)

2170-08-10 08:57:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Somewhat fatigued.
   Up in chair yesterday.
   Remains with cough, yellow sputum; no change.
   Remains despondant.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-9**] 07:48 PM
   Voriconazole - [**2170-8-9**] 10:03 PM
   Meropenem - [**2170-8-10**] 08:27 AM
   Acyclovir - [**2170-8-10**] 08:33 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-9**] 09:35 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-10**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.5
   HR: 96 (89 - 110) bpm
   BP: 117/68(79) {92/51(63) - 127/75(85)} mmHg
   RR: 27 (21 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  2,522 mL
                                                                  1,197 mL
   PO:
                                                                    120 mL
             TF:
                                                                    722 mL
                                                                    288 mL
   IVF:
                                                                  1,520 mL
                                                                    709 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                    860 mL
   Urine:
                                                                  3,320 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -798 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : right, Bronchial: right
   base, Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, year, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   111 K/uL
   120 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.5 mEq/L
   10 mg/dL
   94 mEq/L
   132 mEq/L
   27.7 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-8-6**]  09:14 AM
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
   WBC
   1.1
   1.4
   1.3
   0.9
   0.5
   0.4
   Hct
   22
   21.5
   24.4
   29.0
   31.0
   30.1
   27.8
   26.1
   27.7
   Plt
   77
   82
   78
   73
   93
   111
   Cr
   0.6
   0.5
   0.4
   0.4
   0.4
   TCO2
   30
   Glucose
   110
   122
   106
   124
   120
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:89/81, Alk Phos / T
   Bili:227/1.0, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.0 g/dL, LDH:263 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.2
   mg/dL
   Imaging: CXR ([**2170-8-10**]) decreased opacification of right lung field,
   improved c/w [**2170-8-9**].
   Assessment and Plan
   ALTERED MENTAL STATUS
 remains depondant.  Suspect depression
   (reactive).  Continue antidepressent.
   NEUTROPENIA -- falling ANC, likely due to most recent chemoRx.  Monitor
   daily.
   LIVER FUNCTION ABNORMALITIES
 evolving.  Concern for medication
   effect.  If continues to rise, consider repeat abd U/S.
   H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 stable.
   Recent NSTEMI.  Monitor symptoms.
   PNEUMONIA, RLL
 persistent.  Now neutropenic again.  Continue
   empirical antimcrobials.
   LEUKEMIA,  CLL
 s/p chemotherapy.
   ANEMIA
 likely secondary to chemotherapy.  Transfuse to >21.
   ELEVATED HCO3
 replete KCl.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-10**] 04:41 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-08-11 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER
 100.7F at midnight
   rash on back seems to be pealing. Not causing any pain.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-10**] 09:10 AM
   Voriconazole - [**2170-8-10**] 11:00 AM
   Acyclovir - [**2170-8-11**] 12:13 AM
   Meropenem - [**2170-8-11**] 12:13 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-10**] 11:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-11**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 97.7
C (207.9
   Tcurrent: 37.7
C (99.8
   HR: 107 (95 - 117) bpm
   BP: 122/72(84) {101/53(67) - 133/81(90)} mmHg
   RR: 28 (18 - 37) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 26 Inch
             Total In:
                                                                  3,312 mL
                                                                    679 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    257 mL
   IVF:
                                                                  1,830 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  3,690 mL
                                                                    920 mL
   Urine:
                                                                  3,690 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -378 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% 3L
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   9.5 g/dL
   120 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.0 mEq/L
   10 mg/dL
   96 mEq/L
   132 mEq/L
   27.7 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-8-6**]  10:22 AM
                             [**2170-8-6**]  02:49 PM
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
                             [**2170-8-10**]  08:08 PM
   WBC
   1.1
   1.4
   1.3
   0.9
   0.5
   0.4
   Hct
   21.5
   24.4
   29.0
   31.0
   30.1
   27.8
   26.1
   27.7
   Plt
   77
   82
   78
   73
   93
   111
   Cr
   0.6
   0.5
   0.4
   0.4
   0.4
   0.4
   Glucose
   110
   122
   106
   124
   120
   120
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:89/81, Alk Phos / T
   Bili:227/1.0, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.0 g/dL, LDH:263 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea, and progressive anemia.
   # Multilobar pneumonia: In this immunocompromised patient the
   differential diagnosis is quite broad, including worsening of his known
   multifocal pneumonia as evidenced by his recent CTA and his O2
   requirement.  Also consider whether this is related to his IVIG
   infusion.  There was a question in the past that Rituxan may have
   caused hypoxia and tachypnea.  Consider pulmonary hemorrhage as pt now
   with acute hematocrit drop without evidence of GI bleeding and with
   pinkish, blood-tinged sputum first noted on [**2170-8-4**]; although low
   likelihood as not diffuse findings on CTA.  Lastly, on CT, it appears
   that there is a large L sided pleural effusion that may be causing some
   hypoxia.  Pt was noted to be increasingly tachypnic and transferred to
   ICU.  [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2
   carrying capacity). s/p thoracentesis on [**8-7**] for L sided pleural
   effusion.
   - follow ABGs; should patient acutely worsen or tires, would consider
   BIPAP. Patient is DNI
does not want to be intubated longterm. Wife is
   okay with intubation short term (approximately 2 days).
    - continue supplemental oxygen, nebs
   - daily CXRs
   Vancomycin discontinued as patient hasn't grown MRSA, and has completed
   24 day course.  Voriconazole was discontinued after 20 day course as
   patient had rising LFTs.
   - continue empiric broad spectrum antibiotics of meropenem (day 1 [**7-22**]),
   acyclovir([**7-25**])  for now as pt continues to be febrile with known
   pneumonia.
    - appreciate ID recommendations
   - sputum cultures NGTD
   # Back pealing:
   # Anemia: Acute drop in Hct on [**8-5**] from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso
   yesterday. Received 5 units total.  Stabilized.
   -this AM's HCT stable
   -  Daily Hcts
    - transfuse for Hct goal around 27
   #Psychiatry: Patient is markedly depressed, however has declined
   psychiatry consult.
   - Continue celexa 20mg qd.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   -send C. diff cultures if patient has diarrhea
   - continue meropenem, acyclovir.
    - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
    - follow fever curve - tylenol prn
   # Transaminitis: Most likely secondary to voriconazole or acyclovir. ID
   has recommended checking EBV and CMV PCRs. Not attributed to
   antibiotics. Discontinued Vanc and Voriconazole on [**8-10**].
   -          trend LFTs
   -         No abdominal pain currently.
   # Cutaneous squamous cell carcinoma/CLL: Last dose of
   Vincristine/Rituxan ([**8-4**]); IVIG ([**8-5**])
   -plan for IVIG on [**8-12**].  Onc has recommended pretreating with
   corticosteroids, and running IVIG at half the rate it was previously
   administered
   -continue Neupogen
   - ANCs decreasing
Onc has no new recs regarding this. No plan for
   chemo right now.
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Started
   TFs on [**8-8**].
   -goal fluid balance negative 1L
   # Access: PICC, PIV
   # PPx: Thrombocytopenia, will use pneumoboots for now / bowel regimen
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-11**] 12:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-12 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Spiked fever to 101.5, resolved with Tylenol.
   Total Granulocyte count this AM is 310, up from 154 yesterday.
   Plan  is for patient to receive IVIG today.  He is ordered to receive
   benadryl, hydrocortisone &  methylprednisolone IV before IVIG.  Then
   IVIG to be administered @
  the rate it was given last time, in order
   to prevent a reaction.
   Patient had an episode of atrial bigeminy & some PAC
s overnight.
   Repleted w/2 GM magnesium sulfate IV this am.  Repleted w/20 mEq out of
   60mEq IV KCl.  No need to replete calcium.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-10**] 09:10 AM
   Voriconazole - [**2170-8-10**] 11:00 AM
   Caspofungin - [**2170-8-11**] 04:00 PM
   Acyclovir - [**2170-8-12**] 12:00 AM
   Meropenem - [**2170-8-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-12**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.1
C (97
   HR: 94 (61 - 115) bpm
   BP: 121/67(80) {102/50(63) - 134/80(90)} mmHg
   RR: 28 (21 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  2,899 mL
                                                                  1,096 mL
   PO:
                                                                     30 mL
             TF:
                                                                  1,074 mL
                                                                    400 mL
   IVF:
                                                                  1,225 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,220 mL
   Urine:
                                                                  2,510 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    389 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Labs / Radiology
   135 K/uL
   8.4 g/dL
   146 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.5 mEq/L
   10 mg/dL
   94 mEq/L
   131 mEq/L
   23.2 %
   0.7 K/uL
        [image002.jpg]
                             [**2170-8-7**]  01:04 AM
                             [**2170-8-7**]  04:04 AM
                             [**2170-8-7**]  03:28 PM
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
                             [**2170-8-10**]  08:08 PM
                             [**2170-8-11**]  04:36 AM
                             [**2170-8-12**]  03:27 AM
   WBC
   1.4
   1.3
   0.9
   0.5
   0.4
   0.5
   0.7
   Hct
   29.0
   31.0
   30.1
   27.8
   26.1
   27.7
   24.4
   23.2
   Plt
   82
   78
   73
   93
   111
   129
   135
   Cr
   0.6
   0.5
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   Glucose
   110
   122
   106
   124
   120
   120
   110
   146
   Other labs: PT / PTT / INR:15.2/29.4/1.3, ALT / AST:144/119, Alk Phos /
   T Bili:225/0.9, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:236 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea, and progressive anemia.
   # Multilobar pneumonia: In this immunocompromised patient the
   differential diagnosis is quite broad, including worsening of his known
   multifocal pneumonia as evidenced by his recent CTA and his O2
   requirement.  Also consider whether this is related to his IVIG
   infusion.  There was a question in the past that Rituxan may have
   caused hypoxia and tachypnea.  Consider pulmonary hemorrhage as pt now
   with acute hematocrit drop without evidence of GI bleeding and with
   pinkish, blood-tinged sputum first noted on [**2170-8-4**]; although low
   likelihood as not diffuse findings on CTA.  Lastly, on CT, it appears
   that there is a large L sided pleural effusion that may be causing some
   hypoxia.  Pt was noted to be increasingly tachypnic and transferred to
   ICU.  [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2
   carrying capacity). s/p thoracentesis on [**8-7**] for L sided pleural
   effusion.
   - continue supplemental oxygen, nebs
   - daily CXRs
   Vancomycin discontinued as patient hasn't grown MRSA, and has completed
   24 day course.  Voriconazole was discontinued after 20 day course as
   patient had rising LFTs.
   - continue empiric broad spectrum antibiotics of meropenem (day 1 [**7-22**]),
   acyclovir([**7-25**])  for now as pt continues to be febrile with known
   pneumonia.
    - sputum cultures NGTD
   #Hyponatremia: Patient appears euvolemic, but could be slightly dry.
   Has been getting free water with his tube feeds for the past 3 days and
   was normonatremic before this started.  Free water could be the cause.
   SIADH is also a concern given cancer.
   -send urine osm, unine lytes and serum osm.
   -decrease amount of free water with tube feeds
   -check PM lytes
   # Back peeling: Most likely secondary to prolonged pressure on back.
   Encourage sitting up and rotation as much as possible.  Currently sits
   up 4 hours per day.
   # Anemia: Acute drop in Hct on [**8-5**] from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso.
   Received 5 units total.  Stabilized.
   - HCT stable
slowly trending down, today 23.2. His pulmonary status
   improved with blood earlier in the week, so would transfuse 1 unit
   after IVIG today
   -  Daily Hcts
   #Psychiatry: Patient is markedly depressed, however has declined
   psychiatry consult.
   - Continue liquid Prozac qd.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   -f/i C. diff cultures
   - continue meropenem, acyclovir.
    - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
    - follow fever curve - tylenol prn
   # Transaminitis: Most likely secondary to voriconazole or acyclovir. ID
   has recommended checking EBV and CMV PCRs. Not attributed to
   antibiotics. Discontinued Vanc and Voriconazole on [**8-10**].  LFTs up
   today.
   -          trend LFTs
   -         No abdominal pain currently.
   # Cutaneous squamous cell carcinoma/CLL: Last dose of
   Vincristine/Rituxan ([**8-4**]); IVIG ([**8-5**])
   -plan for IVIG today.  Onc has recommended pretreating with
   corticosteroids, and running IVIG at half the rate it was previously
   administered
   -continue Neupogen
   - ANCs decreasing
Onc has no new recs regarding this. No plan for
   chemo right now.
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Started
   TFs on [**8-8**].
   -goal fluid balance negative 500-1L
   # Access: PICC, PIV
   # PPx: Thrombocytopenia, will use pneumoboots for now / bowel regimen
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-11**] 11:38 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-13 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2170-8-12**] 12:15 PM
   Tolerated IVIG well yesterday
   -transfused 1 PRBCs for HCT 23.2. Appropriately bumped HCT to 26.8.
   -transaminitis: ID thinks may be invasive fungal infection of liver.
   Confirm with heme/onc.  Currently on Caspofungin.
   -hyponatremic: thought to be secondary to TFs.  TFs slowed down.
   -small amount of liquid stool.  Sent for C. diff.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2170-8-11**] 04:00 PM
   Acyclovir - [**2170-8-12**] 11:52 PM
   Meropenem - [**2170-8-12**] 11:52 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-13**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 35.6
C (96.1
   HR: 93 (82 - 109) bpm
   BP: 113/76(85) {102/53(64) - 129/79(90)} mmHg
   RR: 24 (22 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  3,746 mL
                                                                    599 mL
   PO:
                                                                    180 mL
                                                                     30 mL
   TF:
                                                                  1,321 mL
                                                                    396 mL
   IVF:
                                                                  1,445 mL
                                                                    144 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  3,820 mL
                                                                    440 mL
   Urine:
                                                                  3,820 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -74 mL
                                                                    159 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93% 2L
   ABG: ///33/
   Physical Examination
   Gen: Sitting upright. Flat affect. NAD
   Resp: CTAB. No wheezes or crackles.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No masses. No hepatomegaly. No rebound or guarding.
   Extremities: Warm, well perfused. Trace LE edema bilaterally.
   Labs / Radiology
   164 K/uL
   9.7 g/dL
   172 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.9 mEq/L
   16 mg/dL
   99 mEq/L
   138 mEq/L
   26.4 %
   1.8 K/uL
        [image002.jpg] Granulocyte count 1130
   C diff x2 negative
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
                             [**2170-8-10**]  08:08 PM
                             [**2170-8-11**]  04:36 AM
                             [**2170-8-12**]  03:27 AM
                             [**2170-8-12**]  03:45 PM
                             [**2170-8-12**]  09:50 PM
                             [**2170-8-13**]  04:03 AM
   WBC
   1.3
   0.9
   0.5
   0.4
   0.5
   0.7
   1.8
   Hct
   30.1
   27.8
   26.1
   27.7
   24.4
   23.2
   26.8
   26.4
   Plt
   78
   73
   93
   111
   129
   135
   164
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   Glucose
   106
   124
   120
   120
   110
   146
   187
   172
   Other labs: PT / PTT / INR:14.5/29.1/1.3, ALT / AST:142/58, Alk Phos /
   T Bili:202/0.9, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea, and progressive anemia.
   # Multilobar pneumonia: In this immunocompromised patient the
   differential diagnosis is quite broad, including worsening of his known
   multifocal pneumonia as evidenced by his recent CTA and his O2
   requirement.  Also consider whether this is related to his IVIG
   infusion.  There was a question in the past that Rituxan may have
   caused hypoxia and tachypnea.  Consider pulmonary hemorrhage as pt now
   with acute hematocrit drop without evidence of GI bleeding and with
   pinkish, blood-tinged sputum first noted on [**2170-8-4**]; although low
   likelihood as not diffuse findings on CTA.  Lastly, on CT, it appears
   that there is a large L sided pleural effusion that may be causing some
   hypoxia.  Pt was noted to be increasingly tachypnic and transferred to
   ICU.  [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2
   carrying capacity). s/p thoracentesis on [**8-7**] for L sided pleural
   effusion.
   - continue supplemental oxygen, nebs
   Vancomycin discontinued as patient hasn't grown MRSA, and has completed
   24 day course.  Voriconazole was discontinued after 20 day course as
   patient had rising LFTs.
   - continue empiric broad spectrum antibiotics of meropenem (day 1 [**7-22**]),
   acyclovir([**7-25**])  for now as pt continues to be febrile with known
   pneumonia. Caspofungin started [**8-11**].
    - sputum cultures NGTD
   #Hyponatremia: Patient appears euvolemic, but could be slightly dry.
   Has been getting free water with his tube feeds for the past 3 days and
   was normonatremic before this started.  Free water could be the cause.
   SIADH is also a concern given cancer.
    -resolved
   # Back peeling: Most likely secondary to prolonged pressure on back.
   Encourage sitting up and rotation as much as possible.  Currently sits
   up 4 hours per day.
   # Anemia: Acute drop in Hct on [**8-5**] from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso.
   Received 5 units total.  Stabilized.
    - HCT stable
slowly trending down, today 23.2. His pulmonary status
   improved with blood earlier in the week, so transfused 1 unit after
   IVIG on [**8-12**]
   -  Daily Hcts
   #Psychiatry: Patient is markedly depressed, however has declined
   psychiatry consult.
   - Continue liquid Prozac qd.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   -f/u C. diff cultures
   - continue meropenem, acyclovir, caspofungin.
    - f/u all culture data and microbiology studies
   - ID input and onc input appreciated
   - monitor ANCs daily
    - follow fever curve - tylenol prn
   # Transaminitis: Most likely secondary to voriconazole or acyclovir. ID
   has recommended checking EBV and CMV PCRs. Not attributed to
   antibiotics. Discontinued Vanc and Voriconazole on [**8-10**].  LFTs slightly
   lower today.
   -concern for invasive fungal infection.  Caspofungin started [**8-11**].
   Since patient
s LFTs are trending down, will hold off on imaging.
   Consider liver imaging if LFTs begin to rise again.
   -          trend LFTs
   -         No abdominal pain currently.
   # Cutaneous squamous cell carcinoma/CLL: Last dose of
   Vincristine/Rituxan ([**8-4**]); IVIG ([**8-5**], [**8-13**]). Tolerated IVIG well.
   -continue Neupogen
   - ANCs decreasing
Onc has no new recs regarding this. No plan for
   chemo right now.
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Started
   TFs on [**8-8**]. Hyponatremia thought to be secondary to TFs, thus TFs have
   been slowed down to 30cc/hr.
   -goal fluid balance negative 500
   # Access: PICC, PIV
   # PPx: Thrombocytopenia, pneumoboots
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   #Dispo: call out to floor
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-12**] 03:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-13 11:22:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.2
F - [**2170-8-12**] 12:15 PM
   Transfused 1 U PRBC for gradually reduction in Hct.
   Up in chair this AM.
   Offers no new complaints.
   Appears somewhat despondant.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2170-8-11**] 04:00 PM
   Meropenem - [**2170-8-13**] 07:44 AM
   Acyclovir - [**2170-8-13**] 08:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-13**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36
C (96.8
   HR: 93 (82 - 107) bpm
   BP: 116/74(84) {104/60(71) - 129/79(90)} mmHg
   RR: 23 (15 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  3,746 mL
                                                                  1,045 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
                                                                  1,321 mL
                                                                    504 mL
   IVF:
                                                                  1,445 mL
                                                                    421 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  3,820 mL
                                                                    613 mL
   Urine:
                                                                  3,820 mL
                                                                    613 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -74 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: right, No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   164 K/uL
   172 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.9 mEq/L
   16 mg/dL
   99 mEq/L
   138 mEq/L
   26.4 %
   1.8 K/uL
        [image002.jpg]
                             [**2170-8-7**]  05:40 PM
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
                             [**2170-8-10**]  08:08 PM
                             [**2170-8-11**]  04:36 AM
                             [**2170-8-12**]  03:27 AM
                             [**2170-8-12**]  03:45 PM
                             [**2170-8-12**]  09:50 PM
                             [**2170-8-13**]  04:03 AM
   WBC
   1.3
   0.9
   0.5
   0.4
   0.5
   0.7
   1.8
   Hct
   30.1
   27.8
   26.1
   27.7
   24.4
   23.2
   26.8
   26.4
   Plt
   78
   73
   93
   111
   129
   135
   164
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   Glucose
   106
   124
   120
   120
   110
   146
   187
   172
   Other labs: PT / PTT / INR:14.5/29.1/1.3, ALT / AST:142/58, Alk Phos /
   T Bili:202/0.9, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS  -- improved.  Remains somewhat depressed,
   despondent.
   NEUTROPENIA -- improved ANC today;  continue to monitor.
   LIVER FUNCTION ABNORMALITIES -- concern for invasive fungal disease.
   Low threshold for imaging.
   H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) --
   PNEUMONIA, RLL -- continue antimicribials to complete dose.
   SQUAMOUS CELL CA -- no further chemotherapy planned.
   LEUKEMIA, CHRONIC (CLL) -- s/p IV IgG; no further therapy planned.
   ANEMIA, CHRONIC -- transfuse to Hct. >21
   DEPRESSION -- clinical signs.  Currently receiving Prozac.  Monitor.
   Continue to offer Psychiatry Consultation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2170-08-14 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2170-8-13**] 11:36 AM
   Afebrile overnight
   -goal I/O yesterday -500, but tachycardic
felt dry
, responded to
   fluids
   -multiple large liquidy stools
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2170-8-13**] 06:17 PM
   Meropenem - [**2170-8-13**] 11:42 PM
   Acyclovir - [**2170-8-14**] 05:48 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-14**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 102 (91 - 111) bpm
   BP: 131/71(85) {100/51(64) - 136/79(88)} mmHg
   RR: 28 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  3,573 mL
                                                                    373 mL
   PO:
                                                                    300 mL
             TF:
                                                                  1,340 mL
                                                                    146 mL
   IVF:
                                                                  1,733 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  2,133 mL
                                                                    645 mL
   Urine:
                                                                  2,133 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,440 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   Gen: Flat affect, NAD.
   Lungs: Mild rhonchi at R base.  No crackles.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No masses. No rebound or guarding. No hepatomegaly.
   Extremities: No edema. Warm, well perfused.
   Labs / Radiology
   189 K/uL
   9.7 g/dL
   117 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.7 mEq/L
   18 mg/dL
   98 mEq/L
   135 mEq/L
   27.1 %
   1.9 K/uL
        [image002.jpg]
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
                             [**2170-8-10**]  08:08 PM
                             [**2170-8-11**]  04:36 AM
                             [**2170-8-12**]  03:27 AM
                             [**2170-8-12**]  03:45 PM
                             [**2170-8-12**]  09:50 PM
                             [**2170-8-13**]  04:03 AM
                             [**2170-8-14**]  03:18 AM
   WBC
   0.9
   0.5
   0.4
   0.5
   0.7
   1.8
   1.9
   Hct
   27.8
   26.1
   27.7
   24.4
   23.2
   26.8
   26.4
   27.1
   Plt
   73
   93
   111
   129
   135
   164
   189
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   0.3
   Glucose
   106
   124
   120
   120
   110
   146
   187
   172
   117
   Other labs: PT / PTT / INR:13.9/25.0/1.2, ALT / AST:616/550, Alk Phos /
   T Bili:313/0.9, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:360 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea, and progressive anemia.
   # Multilobar pneumonia: In this immunocompromised patient the
   differential diagnosis is quite broad, including worsening of his known
   multifocal pneumonia as evidenced by his recent CTA and his O2
   requirement.  Also consider whether this is related to his IVIG
   infusion.  There was a question in the past that Rituxan may have
   caused hypoxia and tachypnea.  Consider pulmonary hemorrhage as pt now
   with acute hematocrit drop without evidence of GI bleeding and with
   pinkish, blood-tinged sputum first noted on [**2170-8-4**]; although low
   likelihood as not diffuse findings on CTA.  Lastly, on CT, it appears
   that there is a large L sided pleural effusion that may be causing some
   hypoxia.  Pt was noted to be increasingly tachypnic and transferred to
   ICU.  [**Month (only) 8**] be secondary to acute drop in hematocrit (decreased O2
   carrying capacity). s/p thoracentesis on [**8-7**] for L sided pleural
   effusion.
   - continue supplemental oxygen, nebs
   Vancomycin discontinued as patient hasn't grown MRSA, and has completed
   24 day course.  Voriconazole was discontinued after 20 day course as
   patient had rising LFTs.
   - continue empiric broad spectrum antibiotics of meropenem (day 1 [**7-22**]),
   acyclovir([**7-25**])  for now as pt continues to be febrile with known
   pneumonia. Caspofungin started [**8-11**].
   -          sputum cultures NGTD
   #Diarrhea: Infectious vs antibiotic related vs. due to tubefeeds.
   -C. diff x3 negative.
   -coninue to send C. diff.
   -monitor I/O
s and give IVFs as necessary.
   # Transaminitis: LFTs are at highest they've ever been today.
   Differential includes shock liver, infection, spread of cancer.
   Patient hasn
t had acute hypotensive episode to cause shock liver.
   -liver MRI to look for invasive fungal infection.
   -Caspofungin started [**8-11**].
   -          trend LFTs
   -         No abdominal pain currently.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden.
   -f/u C. diff cultures
   - continue meropenem, acyclovir, caspofungin.
    - f/u all culture data and microbiology studies
    - ID input and onc input appreciated
    - monitor ANCs daily
    - follow fever curve - tylenol prn
   # Back peeling: Most likely secondary to prolonged pressure on back.
   Encourage sitting up and rotation as much as possible.  Currently sits
   up 4 hours per day.
   # Anemia: Acute drop in Hct on [**8-5**] from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso.
   Received 5 units total.  Stabilized.
    - HCT stable
slowly trending down, today 23.2. His pulmonary status
   improved with blood earlier in the week, so transfused 1 unit after
   IVIG on [**8-12**]
   -  Daily Hcts
   #Psychiatry: Patient is markedly depressed, agreed to psychiatry
   consult today
   - Continue liquid Prozac qd.
   # Cutaneous squamous cell carcinoma/CLL: Last dose of
   Vincristine/Rituxan ([**8-4**]); IVIG ([**8-5**], [**8-13**]). Tolerated IVIG well.
   -continue Neupogen
   - f/u Onc recs
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Started
   TFs on [**8-8**]. TFs at night, in hopes of reducing diarrhea.
   -goal fluid balance even
   # Access: PICC, PIV
    # PPx: Thrombocytopenia, pneumoboots
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   #Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-14 11:32:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2170-8-13**] 11:36 AM
   Experienced mild hypotension yesterday, responded to iv fluids.
   No new complaints this AM.
   Continues with copius diarrhea --> improved upon holding of TF.
   Sitting up in chair.
   Remains dispondent.  States he is willing to speak to Psychiatry
   consultant.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2170-8-13**] 06:17 PM
   Acyclovir - [**2170-8-14**] 05:48 AM
   Meropenem - [**2170-8-14**] 08:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-14**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 101 (93 - 111) bpm
   BP: 121/73(83) {100/51(64) - 136/79(88)} mmHg
   RR: 26 (20 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 26 Inch
             Total In:
                                                                  3,857 mL
                                                                    728 mL
   PO:
                                                                    300 mL
             TF:
                                                                  1,340 mL
                                                                    146 mL
   IVF:
                                                                  2,018 mL
                                                                    552 mL
   Blood products:
   Total out:
                                                                  2,133 mL
                                                                    845 mL
   Urine:
                                                                  2,133 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,724 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: right, No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   189 K/uL
   117 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.7 mEq/L
   18 mg/dL
   98 mEq/L
   135 mEq/L
   27.1 %
   1.9 K/uL
        [image002.jpg]
                             [**2170-8-8**]  03:56 AM
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
                             [**2170-8-10**]  08:08 PM
                             [**2170-8-11**]  04:36 AM
                             [**2170-8-12**]  03:27 AM
                             [**2170-8-12**]  03:45 PM
                             [**2170-8-12**]  09:50 PM
                             [**2170-8-13**]  04:03 AM
                             [**2170-8-14**]  03:18 AM
   WBC
   0.9
   0.5
   0.4
   0.5
   0.7
   1.8
   1.9
   Hct
   27.8
   26.1
   27.7
   24.4
   23.2
   26.8
   26.4
   27.1
   Plt
   73
   93
   111
   129
   135
   164
   189
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   0.3
   Glucose
   106
   124
   120
   120
   110
   146
   187
   172
   117
   Other labs: PT / PTT / INR:13.9/25.0/1.2, ALT / AST:616/550, Alk Phos /
   T Bili:313/0.9, Differential-Neuts:50.0 %, Band:0.0 %, Lymph:45.0 %,
   Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:360 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS -- resolved.  Currently appears clinically
   depressed.
   DEPRESSION
 Psychiatry evaluation.  Continue anti-depressant.
   NEUTROPENIA -- improved.  Monitor ANC.
   LIVER FUNCTION ABNORMALITIES -- scan MRI of abdomen to assess for
   possible invasive fungal disease.  Continue caspofungin
   H/O CORONARY ARTERY DISEASE
 s/p NSTEMI. Monitor.
   PNEUMONIA
 RLL
 continue empirical antimicrobials.
   SQUAMOUS CELL CA
 no further treatment.
   LEUKEMIA, CHRONIC (CLL)
 awaiting additional chemoRx.
   ANEMIA, CHRONIC
 phlegotomy contributing.
   DEPRESSION -- clinical evidence.  Psychiatry consultation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2170-08-15 07:20:00 Physician Resident Progress Note
Chief Complaint: 61 yo M with CLL and invasive squamous cell carcinoma,
   presented with neutropenic fever, hypoxia, tachypnea, and multifocal
   pneumonia
resolving.
   24 Hour Events:
 CALLED OUT
   Acyclovir discontinued yesterday given no evidence of viral infection
   and elevated LFTs.  LFTs have come down this morning.
   MR abdomen: RLL consolidation (?necrosis), L lung base infection, small
   bilateral pleural effusions
   Tube feeds changed to overnight only
   Psychiatry stopped by, but patient was at MRI.  Will see him today.
   PT: patient walked with help of PT yesterday.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2170-8-14**] 05:48 AM
   Caspofungin - [**2170-8-14**] 08:55 PM
   Meropenem - [**2170-8-15**] 12:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-15**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 97 (88 - 108) bpm
   BP: 124/77(88) {98/58(68) - 136/93(104)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 26 Inch
             Total In:
                                                                  1,595 mL
                                                                    688 mL
   PO:
                                                                     60 mL
             TF:
                                                                    338 mL
                                                                    387 mL
   IVF:
                                                                  1,106 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    645 mL
   Urine:
                                                                  2,335 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   9.1 g/dL
   115 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   16 mg/dL
   99 mEq/L
   136 mEq/L
   25.2 %
   2.4 K/uL
        [image002.jpg] Granulocyte count: pending
                             [**2170-8-9**]  04:31 AM
                             [**2170-8-10**]  05:11 AM
                             [**2170-8-10**]  08:08 PM
                             [**2170-8-11**]  04:36 AM
                             [**2170-8-12**]  03:27 AM
                             [**2170-8-12**]  03:45 PM
                             [**2170-8-12**]  09:50 PM
                             [**2170-8-13**]  04:03 AM
                             [**2170-8-14**]  03:18 AM
                             [**2170-8-15**]  03:52 AM
   WBC
   0.5
   0.4
   0.5
   0.7
   1.8
   1.9
   2.4
   Hct
   26.1
   27.7
   24.4
   23.2
   26.8
   26.4
   27.1
   25.2
   Plt
   93
   111
   129
   135
   164
   189
   193
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   0.3
   0.3
   Glucose
   124
   120
   120
   110
   146
   187
   172
   117
   115
   Other labs: PT / PTT / INR:13.9/25.0/1.2, ALT / AST:339/85, Alk Phos /
   T Bili:237/0.8, Amylase / Lipase:53/26, Differential-Neuts:50.0 %,
   Band:0.0 %, Lymph:45.0 %, Mono:0.0 %, Eos:5.0 %, Fibrinogen:430 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:155 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   61 y.o. M with cutaneous squamous cell carcinoma metastatic to regional
   lymph nodes and CLL currently receiving XRT presents with neutropenic
   fever, increasing hypoxia, tachypnea.  Patient has not been neutropenic
   x3 days.  Tachypnea and hypoxia have resolved. Fever curve coming down.
   # Multilobar pneumonia in immunocompromised: Abdominal CT on [**8-14**]
   showed continued RLL consolidations (? necrosis) and L lung base
   infiltrate, with bilateral small pleural effusions.  Patient continues
   to have tan colored sputum.   S/p thoracentesis on [**8-7**] for L sided
   pleural effusion. Patient has completed a 24 day course of Vancomycin
   (no evidence of MRSA), and 20 day course of Voriconazole.  Acyclovir
   discontinued after 20 day course (no evidence of viral infection, and
   increased LFTs). All culture data to date is negative.
    - continue supplemental oxygen, nebs
    - continue empiric broad spectrum antibiotics of meropenem (day 1
   [**7-22**]), and Caspofungin (day 1 [**8-11**]).  Plan to d/c meropenem after 7 days
   without neutropenia (today is day 3)
    - sputum cultures NGTD
   #Diarrhea: Infectious vs antibiotic related vs. due to tubefeeds. Tube
   feeds changed to overnight only.  Diarrhea seems to have resolved with
   this change.
   -C. diff x3 negative.
   -coninue to send C. diff.
   -monitor I/O
s and give IVFs as necessary.
   # Transaminitis: LFTs peaked on [**8-14**]. Trending down this AM.
   Differential includes invasive fungal infection, spread of cancer, drug
   related (acyclovir vs. Caspofungin), IVIG related, viral hepatitis. MRI
   on [**8-14**] showed no abnormalities in liver.  Acyclovir discontinued [**8-14**],
   and LFTs seem to be trending down.  No evidence of viral pneumonia or
   infection requiring empriric anti-viral coverage.  CMV PCR negative.
   If begins to rise again, consider switching Caspofungin to Micofungin,
   less likely to affect liver. Patient does not endorse abdominal pain.
   -viral hepatitis serologies pending.
   -EBV PCR pending.
   # Febrile Neutropenia: DDx consists of known multifocal pneumonia that
   is not responding to broad spectrum antibiotics vs. drug fever vs.
   tumor burden. All culture data to date has been negative.  Fever curve
   is coming down. Patient has not been neutropenic for 3 days.
   -C. diff cultures x3 negative
   - continue meropenem, caspofungin.
    - f/u all culture data and microbiology studies
    - ID input and onc input appreciated
   # Back peeling: Most likely secondary to prolonged pressure on back.
   Encourage sitting up and rotation as much as possible.  Currently sits
   up 4 hours per day, and has been walking with PT.
   # Anemia: Acute drop in Hct on [**8-5**] from 30 to 17 over 24 hours. No
   evidence of GI bleed, but worry for pulmonary source due to
   blood-tinged pinkish sputum.  Though, this would
ve been seen on chest
   CT.  Intraabdominal and retroperitoneal bleed ruled out with CT torso.
   Received 5 units total.  Stabilized.
    - HCT stable
slowly trending down, today 25.2.  Will keep HCT > 21.
   -  Daily Hcts
   #Psychiatry: Patient is markedly depressed, agreed to psychiatry
   consult today.
   - Continue liquid Prozac qd.
   # Cutaneous squamous cell carcinoma/CLL: Last dose of
   Vincristine/Rituxan ([**8-4**]); IVIG ([**8-5**], [**8-13**]). Tolerated IVIG well.
   Oncology plans on Vincristine/Rituxan on [**8-18**] if patient continues to
   do well.
    -continue Neupogen
   - f/u Onc recs
   - continue GCSF per Heme-Onc
   # FEN: no IVFs for now / electrolyte scales / Neutropenic diet. Started
   TFs on [**8-8**]. TFs at night to reduce diarrhea.
   -goal fluid balance even
   # Access: PICC, PIV
    # PPx: Thrombocytopenia, pneumoboots
   # Contact: Wife (called on ICU transfer)
   # Code: Do not resuscitate (DNR/DNI; patient is DNR (no CPR or
   chemicals), patient is willing to be intubated for short period of time
   #Dispo: called out to floor. Waiting for bed.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-8-14**] 08:30 PM 55 mL/hour
   Lines:
   PICC Line - [**2170-8-5**] 09:31 PM
   Code status: DNR (do not resuscitate)